US04058550
A mixture of 7.66 g of sodium 4-(n-hexadecylamino)benzoate, 7.55 g of 4-chloro-1-butanol, and 20.0 ml of hexamethylphosphoramide is stirred at 150° C for two hours, allowed to cool, and poured into water. The solid is collected by filtration and then is dissolved in methylene chloride. The solution is washed with water, dried, and evaporated. The residual solid is crystallized from hexane to yield 4-hydroxybutyl 4-(n-hexadecylamino)benzoate as a white solid, mp 61°-63° C.

reactant | sodium 4-(n-hexadecylamino)benzoate | 7.66 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | 4-chloro-1-butanol | 7.55 g | ClCCCCO | C4H9ClO
reactant | hexamethylphosphoramide | 20.0 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | 4-hydroxybutyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCCCCO)C=C1 | C27H47NO3
